US07994324B2
N-[2-((R)-Indan-1-ylamino)-quinolin-5-yl]-3-methoxy-propionamide
(R)—N2-Indan-1-yl-quinoline-2,5-diamine (150 mg, 0.55 mmol) was dissolved in 3 mL pyridine and 3-methoxypropionyl chloride (70 mg, 0.0.57 mmol) and 4-dimethylamino pyridine (3 mg, 0.02 mmol) were added. The reaction mixture was stirred at 80° C. overnight and quenched by addition of 50 mL water and acetic acid until pH 5. The mixture was extracted three times with ethyl acetate (50 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0→0:100 gradient). The title compound was obtained as a brown solid (59 mg, 30%), MS: m/e=362.4 (M+H−).

reactant | (R)—N2-Indan-1-yl-quinoline-2,5-diamine | 0.55 mmol, 150 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC=2C=CC=C(C2C=C1)N | C18H17N3
reactant | 3-methoxypropionyl chloride | 70 mg | COCCC(=O)Cl | C4H7ClO2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylamino pyridine | 0.02 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-((R)-Indan-1-ylamino)-quinolin-5-yl]-3-methoxy-propionamide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)NC(CCOC)=O | C22H23N3O2
